US08871760B2
A solution of [2-tert-butoxycarbonylamino-2-(4-fluoro-phenyl)-ethylsulfanyl]-acetic acid methyl ester (3.23 g, 9.4 mmol) in trifluoroacetic acid (10 mL) was stirred at 50° C. for 10 hours. The solution was then concentrated under reduced pressure, and the residue was partitioned between saturated aqueous sodium bicarbonate and dichloromethane. The organic layer was separated, dried (Na2SO4), filtered and concentrated under reduced pressure to give 2.0 g of 5-(4-fluoro-phenyl)-thiomorpholin-3-one, MP=111-112° C.

reactant | [2-tert-butoxycarbonylamino-2-(4-fluoro-phenyl)-ethylsulfanyl]-acetic acid methyl ester | 9.4 mmol, 3.23 g | COC(CSCC(C1=CC=C(C=C1)F)NC(=O)OC(C)(C)C)=O | C16H22FNO4S
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(4-fluoro-phenyl)-thiomorpholin-3-one | 2.0 g | FC1=CC=C(C=C1)C1CSCC(N1)=O | C10H10FNOS
